US07173031B2
C) 1-(4-(4-Amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(dimethylamino)ethanone
To a solution of 2-(dimethylamino)-1-(4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone (80 mg, 0.22 mmol) in a mixed solvent (5 mL of THF and 5 mL of MeOH) were added ammonium chloride (64.2 mg, 1.2 mmol, EMD) and Zn dust (78.4 mg, 1.2 mmol, Aldrich). The reaction mixture was stirred at room temperature overnight, diluted with 30 mL of EtOAc and filtered through a pad of Celite®. The filtrate was concentrated in vacuo and the resulting residue was purified by preparative HPLC. The desired fractions were combined, neutralized with saturated aq. NaHCO3 solution, and concentrated in vacuo. The solid that formed was collected by filtration (51 mg, 71%). MS(ESI+) m/z 328.1 (M+H)+.

reactant | 2-(dimethylamino)-1-(4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone | 0.22 mmol, 80 mg | CN(CC(=O)C1=CNC2=NC=CC(=C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F)C | C17H15FN4O4
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | MeOH | 5 mL | CO | CH4O
reactant | ammonium chloride | 1.2 mmol, 64.2 mg | [Cl-].[NH4+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | 1.2 mmol, 78.4 mg | [Zn] | Zn
product | 1-(4-(4-Amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(dimethylamino)ethanone | NC1=CC(=C(OC2=C3C(=NC=C2)NC=C3C(CN(C)C)=O)C=C1)F | C17H17FN4O2
